US05196438
A solution of 561 mg of 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide and 372 mg of N-(benzyloxycarbonyl)-L-asparagine in 20 ml of dry tetrahydrofuran was cooled in an ice/salt mixture. 189 mg of hydroxybenzotriazole, 161 mg of N-ethylmorpholine and 317 mg of dicyclohexylcarbodiimide were added and the mixture was stirred for 16 hours. The mixture was then diluted with ethyl acetate and filtered. The filtrate was washed with aqueous sodium bicarbonate solution and sodium chloride solution. The solvent was removed by evaporation and the residue was chromatographed on silica gel using dichloromethane/methanol (9:1) for the elution to give 434 mg of 2-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide as a white solid from methanol/diethyl ether; MS: m/e 650 [M+H]+, NMR: δ (d4CH3OH, 400 MHz):

reactant | 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 561 mg | N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C24H39N3O2
reactant | N-(benzyloxycarbonyl)-L-asparagine | 372 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
reactant | hydroxybenzotriazole | 189 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | 161 mg | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 317 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 434 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C36H51N5O6
